US07592358B2
49.1a. 5-bromo-2-[(tert-butyldimethylsilanyl)ethynyl]-3-fluoropyridine
The product was prepared analogously to Example 48.1c from 23.4 g (92.0 mmol) of 2,5-dibromo-3-fluoropyridine and 17.5 mL (92.0 mmol) of tert-butylethynyldimethylsilane (with triethylamine as base and PdCl2(PPh3)2 as catalyst). Yield: 23.3 g (81% of theoretical); C13H17BrFNSi (M=314.269); calc.: molpeak (M+H)+:314/316 (Br); found: molpeak (M+H)+:314/316 (Br).

reactant | 2,5-dibromo-3-fluoropyridine | 92.0 mmol, 23.4 g | BrC1=NC=C(C=C1F)Br | C5H2Br2FN
reactant | tert-butylethynyldimethylsilane | 92.0 mmol, 17.5 mL | C(C)(C)(C)[Si](C)(C)C#C | C8H16Si
product | 5-bromo-2-[(tert-butyldimethylsilanyl)ethynyl]-3-fluoropyridine | BrC=1C=C(C(=NC1)C#C[Si](C)(C)C(C)(C)C)F | C13H17BrFNSi
